US08614209B2
cis-(5-Bromo-thiophen-3-yl)-(octahydro-quinolin-1-yl)-methanone (0.217 g, 0.66 mmol) was added to a solution of caesium carbonate (0.32 g, 0.99 mmol), [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-acetic acid ethyl ester (0.203 g, 0.725 mmol) and palladium tetrakis(triphenylphosphine) (76 mg, 0.07 mmol) in DME (6 mL), IMS (2 mL) and water (1 mL). The reaction mixture was purged with nitrogen and heated by microwave irradiation to 140° C. for 20 minutes then diluted with water and extracted with DCM (×2). The organic solution was dried over sodium sulfate, filtered and the solvent evaporated. The crude material was purified by chromatography on a 5 g silica II cartridge, eluting with 10-50% ethyl acetate in cyclohexane then columned using 0-25% diethyl ether in DCM to afford {4-[4-(octahydro-quinoline-1-carbonyl)-thiophen-2-yl]-pyrazol-1-yl}-acetic acid ethyl ester (164 mg). LCMS m/z 402.41 [M+H]+ R.T.=3.91 min (Analytical Method 6).

reactant | cis-(5-Bromo-thiophen-3-yl)-(octahydro-quinolin-1-yl)-methanone | 0.66 mmol, 0.217 g | BrC1=CC(=CS1)C(=O)N1CCC[C@@H]2CCCC[C@H]12 | C14H18BrNOS
reactant | caesium carbonate | 0.99 mmol, 0.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-acetic acid ethyl ester | 0.725 mmol, 0.203 g | C(C)OC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C13H21BN2O4
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | palladium tetrakis(triphenylphosphine) | 0.07 mmol, 76 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | {4-[4-(octahydro-quinoline-1-carbonyl)-thiophen-2-yl]-pyrazol-1-yl}-acetic acid ethyl ester | 164 mg | C(C)OC(CN1N=CC(=C1)C=1SC=C(C1)C(=O)N1CCCC2CCCCC12)=O | C21H27N3O3S
